US06897231B2
B. N-[3-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))phenyl]-3-piperidylpropanamide
N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-piperidylpropanamide was 4 mL of 4.0 N HCl in 1,4-dioxane. The reaction mixture was stirred at room temperature overnight. After neutralization with a saturated aqueous solution of NaHCO3, the crude reaction mixture was evaporated to dryness and purified by preparative HPLC (0.106 g, 38% yield over 2 steps): 1H NMR (CD3OD) δ 8.73 (br s, 1H), 8.35 (br s, 1H), 8.17 (t, 1H), 8.1 (dd, 1H), 7.7-7.6 (m, 3H), 7.5 (t, 1H), 2.8 (t, 2H), 2.66 (t, 2H), 2.58 (br s, 4H), 1.65 (m, 4H), 1.5 (m, 2H); ES-MS (m/z) 416 [M+H]+.

reactant | N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-piperidylpropanamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(C(C)C1CNCCC1)=O | C47H47N7O2
reactant | HCl | 4.0 N, 4 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))phenyl]-3-piperidylpropanamide | 38% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(C(C)C1CNCCC1)=O | C23H25N7O
